US04352811
3-{3-[4-(1,2-benzisoxazol-3-yl)piperidyl]propyl}-2-methylindole
A mixture of 1.67 g of 3-(4-piperidyl)-1,2-benzisoxazole hydrochloride, 2.47 g of 2-methyl-3-(phenylsulfonylpropyl)indole, 40 ml of dimethylformamide and 5.0 g of potassium carbonate was stirred under nitrogen at 90° for 4 hrs. The reaction mixture was poured into water. The precipitate was extracted with ethyl acetate and the ethyl acetate was washed with brine, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The oil was combined with 1.39 g of previously prepared material and the sample was chromatographed in 120 g of silica gel, using 1% methanol-chloroform as eluent. The eluent was evaporated and the residue was recrystallized two times from ethanol-water to yield 1.60 g (15.4%) of the product, mp 110°-112°.

reactant | 3-(4-piperidyl)-1,2-benzisoxazole hydrochloride | 1.67 g | Cl.N1CCC(CC1)C1=NOC2=C1C=CC=C2
reactant | 2-methyl-3-(phenylsulfonylpropyl)indole | 2.47 g | CC=1NC2=CC=CC=C2C1CCCS(=O)(=O)C1=CC=CC=C1 | C18H19NO2S
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-{3-[4-(1,2-benzisoxazol-3-yl)piperidyl]propyl}-2-methylindole | 1.60 g, 15.4% | O1N=C(C2=C1C=CC=C2)C2CCN(CC2)CCCC2=C(NC1=CC=CC=C21)C | C24H27N3O
